US06143773
Step 1: 6,6-Dimethyl-3-methylthio-1-(pyrid-2-yl)-4,5,6,7-tetrahydrobenzo[c]thiophen-4-one
1-Bromo-6,6-dimethyl-3-methylthio-4,5,6,7-tetrahydrobenzo[c]thiophen-4-one (300 mg, 1 mmol) was dissolved in dioxane (25 mL), and 2-(tri-n-butylstannyl)pyridine (550 mg, 1.35 mmol) was added. The solution was de gassed with nitrogen then tetrakis (tri-phenylphosphine)palladium (30 mg, 0.025 mmol) was added and the solution refluxed for 16 h. The solvent was then removed in vacuo and the residue triturated with a mixture of ethyl acetate and hexane (1:3). After filtration the solid product was washed with a little diethyl ether to give the title compound as a white solid (170 mg, 57%). mp 217-220° C. Found: C, 63.02; H, 5.64; , 4.47%. C16H17NOS2 requires: C, 63.36; H, 5.61; N, 4.62%. 1H NMR (250 MHz, CDCl3)δ1.08 (6H, s), 2.44 (2H, s), 2.65 (3H, s), 2.93 (2H, s), 7.18 (1H, m), 7.47 (1H, d, J=8Hz), 7.71-7.77 (1H, m), 8.61-8.63 (1H, m). MS (ES+) 304 (M+1).

reactant | 1-Bromo-6,6-dimethyl-3-methylthio-4,5,6,7-tetrahydrobenzo[c]thiophen-4-one | 1 mmol, 300 mg | BrC=1SC(=C2C1CC(CC2=O)(C)C)SC | C11H13BrOS2
reactant | 2-(tri-n-butylstannyl)pyridine | 1.35 mmol, 550 mg | C(CCC)[Sn](C1=NC=CC=C1)(CCCC)CCCC
solvent | dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | 6,6-Dimethyl-3-methylthio-1-(pyrid-2-yl)-4,5,6,7-tetrahydrobenzo[c]thiophen-4-one | 170 mg, 57% | CC1(CC(C=2C(=C(SC2SC)C2=NC=CC=C2)C1)=O)C | C16H17NOS2
